US08420642B2
5-Chloro-2-nitro-pyridine-3-ol (5.7 mmol) is dissolved in THF (35 ml) and triphenylphosphin (2 eq.) and 1-Methoxy-2-propanol (1 eq.) is added at 0° C. After addition of di-tert.-butylazodicarboxylate (1.5 eq) in THF (10 ml), the reaction is stirred five hours at 0° C. The solvent is removed in vacuo. 5-Chloro-3-(2-methoxy-1-methyl-ethoxy)-2-nitro-pyridine is obtained after column chromatography (heptan/ethylacetate) as yellow solid in a yield of 100%. HPLC (method C): 1.81 min; LC-MS (method A): 1.64 min, 247.05 (MH+).

reactant | 5-Chloro-2-nitro-pyridine-3-ol | 5.7 mmol | ClC=1C=C(C(=NC1)[N+](=O)[O-])O | C5H3ClN2O3
reactant | triphenylphosphin | 2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-Methoxy-2-propanol | 1 eq. | COCC(C)O | C4H10O2
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-(2-methoxy-1-methyl-ethoxy)-2-nitro-pyridine | yield of 100% | ClC=1C=C(C(=NC1)[N+](=O)[O-])OC(COC)C | C9H11ClN2O4
